US07135466B2
N1-(3-Methoxyphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide
2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}acetic acid (150 mg), WSC.HCl (122 mg), and HOBT.H2O (86 mg) were dissolved in chloroform (5 ml) to prepare a solution. m-Anisidine (63 mg) was then added to the solution, and the mixture was heated under reflux for 3 hr. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with 1 N hydrochloric acid, water, and saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development to give the title compound (173 mg, yield 89%).

reactant | 2-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenoxy}acetic acid | 150 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(OCC(=O)O)C=C1 | C19H17NO6
reactant | WSC.HCl | 122 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | m-Anisidine | 63 mg | COC1=CC(=CC=C1)N | C7H9NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 86 mg | O | H2O
product | N1-(3-Methoxyphenyl)-2-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenoxy}acetamide | 173 mg, yield 89% | COC=1C=C(C=CC1)NC(COC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C26H24N2O6
